US06159904
5-Chloro-6-(1-ethyl-5-(4-methylphenylsulfonyloxy)pyrazol-4-yl)carbonyl-3,3,8-trimethylthiochroman-4-one-1,1-dioxide
0.60 Gram (1.46 mmol) of 5-chloro-6-(1-ethyl-5-hydroxypyrazol-4-yl)carbonyl-3,3,8-trimethylthiochroman-4-one-1,1-dioxide was dissolved in 7 ml of dicholoromethane. Separately, 0.25 g (1.81 mmol) of potassium carbonate was dissolved in 7 ml of water, and these two solutions were mixed. Then, 0.34 g(1.78 mmol) of p-toluenesulfonyl chloride was added. Further, a small amount (about 20 mg) of benzyltriethylammonium chloride was added, and the mixture was stirred at room temperature for about 15 hours. The reaction mixture was diluted with dichloromethane and water and separated into two phases, and an organic layer was washed with diluted hydrochloric acid, then with water and with a saturated sodium chloride aqueous solution and dried over anhydrous sodium sulfate. The solvent was distilled off under reduced pressure, and 0.77 g of the resultant oil was purified by silica gel column chromatography (developer solution: n-hexane/ethyl acetate, 2:1 v/v) to give 0.67 g (yield 82% of the titled compound. Table 26 shows the structural formula of the titled compound, and Table 27 shows the physical property data thereof.

reactant | 5-chloro-6-(1-ethyl-5-hydroxypyrazol-4-yl)carbonyl-3,3,8-trimethylthiochroman-4-one-1,1-dioxide | 1.46 mmol | ClC1=C2C(C(CS(C2=C(C=C1C(=O)C=1C=NN(C1O)CC)C)(=O)=O)(C)C)=O | C18H19ClN2O5S
reactant | potassium carbonate | 1.81 mmol, 0.25 g | C([O-])([O-])=O.[K+].[K+]
reactant | p-toluenesulfonyl chloride | 1.78 mmol, 0.34 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
solvent | water | 7 ml | O | H2O
catalyst | benzyltriethylammonium chloride | about 20 mg | [Cl-].C(C1=CC=CC=C1)[N+](CC)(CC)CC
solvent | dichloromethane | ClCCl | CH2Cl2
product | 5-Chloro-6-(1-ethyl-5-(4-methylphenylsulfonyloxy)pyrazol-4-yl)carbonyl-3,3,8-trimethylthiochroman-4-one-1,1-dioxide | yield 82% | ClC1=C2C(C(CS(C2=C(C=C1C(=O)C=1C=NN(C1OS(=O)(=O)C1=CC=C(C=C1)C)CC)C)(=O)=O)(C)C)=O | C25H25ClN2O7S2
